US04576957
4-Methyl-1H-imidazole-1-propanamine
A mixture of 49.2 g. of 4-methyl-1H-imidazole and 75 ml. of acrylonitrile was heated on a steam bath for 6 hours and then concentrated to remove excess acrylonitrile. The residue was diluted with 400 ml. of methanol and divided into two parts. To each was added 90 ml. of ammonium hydroxide and Raney nickel catalyst. Each portion was then hydrogenated in a Parr apparatus. Each part was filtered, the filtrates combined and concentrated. The residue was concentrated from toluene. This residue was dissolved in tetrahydrofuran, stirred for one hour, filtered, concentrated, then concentrated from toluene, giving 82.2 g. of the desired intermediate as an oil.

reactant | 4-methyl-1H-imidazole | CC=1N=CNC1 | C4H6N2
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | 4-Methyl-1H-imidazole-1-propanamine | CC=1N=CN(C1)CCCN | C7H13N3
